US07851463B2
2-Fluoro-4-isopropenyl-N-[4-((S)-1-propyl-pyrrolidin-3-yl)-phenyl]-benzenesulfonamide
0.2 g of 2-fluoro-4-bromo-N-[4-((S)-1-propyl-pyrrolidin-3-yl)-phenyl]-benzenesulfonamide (0.45 mmol), 1.05 g of tributyl-isopropenyl-stannane (3.17 mmol) and 0.026 g of tetrakistriphenylphosphinpalladium(0) (0.02 mmol) were dissolved in 3 ml of tetrahydrofuran and stirred for 40 minutes at 150° C. in the microwave (CEM). The reaction mixture was filtered over celite, washed with methanol, and the filtrate evaporated to dryness under reduced pressure. The residue was purified via silica gel chromatography with cyclohexane/ethyl acetate (20%), ethyl acetate, and ethyl acetate/methanol (15%). Fractions containing the product were combined, the solvent evaporated to yield 0.176 g of the title product.

reactant | 2-fluoro-4-bromo-N-[4-((S)-1-propyl-pyrrolidin-3-yl)-phenyl]-benzenesulfonamide | 0.45 mmol, 0.2 g | FC1=C(C=CC(=C1)Br)S(=O)(=O)NC1=CC=C(C=C1)[C@H]1CN(CC1)CCC | C19H22BrFN2O2S
reactant | tributyl-isopropenyl-stannane | 3.17 mmol, 1.05 g | C(CCC)[Sn](C(=C)C)(CCCC)CCCC
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | 2-Fluoro-4-isopropenyl-N-[4-((S)-1-propyl-pyrrolidin-3-yl)-phenyl]-benzenesulfonamide | 0.176 g | FC1=C(C=CC(=C1)C(=C)C)S(=O)(=O)NC1=CC=C(C=C1)[C@H]1CN(CC1)CCC | C22H27FN2O2S
